US06207662B1
(±)-4-(4-Chlorobenzyl)-2-[(4-chloro-2-methoxyphenoxy)methyl]morpholine oxalic acid salt.
A mixture of (±)-4-(4-chlorobenzyl)-2-chloromethylmorpholine (10.0 g, 38.5 mmol), 4-chloro-2-methoxyphenol (9.0 g, 58 mmol), potassium ethoxide (6.5 g, 77 mmol), and 18-crown-6 (10.2 g, 38.5) was refluxed in toluene (100 ml) for 34 h. Water (200 ml) was added and the phases were separated. Drying and evaporation of the toluene phase was followed by column chromatography on silica gel with 3% ethanol in dichloromethane as eluent. The free base was dissolved in ether and precipitated with oxalic acid to give the title compound. Yield 10.3 g, 57%, mp 133-139° C.

reactant | (±)-4-(4-chlorobenzyl)-2-chloromethylmorpholine | 38.5 mmol, 10.0 g | ClC1=CC=C(CN2CC(OCC2)CCl)C=C1 | C12H15Cl2NO
reactant | 4-chloro-2-methoxyphenol | 58 mmol, 9.0 g | ClC1=CC(=C(C=C1)O)OC | C7H7ClO2
reactant | potassium ethoxide | 77 mmol, 6.5 g | [O-]CC.[K+]
reactant | 18-crown-6 | 10.2 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | Water | 200 ml | O | H2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | (±)-4-(4-Chlorobenzyl)-2-[(4-chloro-2-methoxyphenoxy)methyl]morpholine oxalic acid salt | C(C(=O)O)(=O)O.ClC1=CC=C(CN2CC(OCC2)COC2=C(C=C(C=C2)Cl)OC)C=C1 | InChI=1S/C19H21Cl2NO3.C2H2O4/c1-23-19-10-16(21)6-7-18(19)25-13-17-12-22(8-9-24-17)11-14-2-4-15(20)5-3-14;3-1(4)2(5)6/h2-7,10,17H,8-9,11-13H2,1H3;(H,3,4)(H,5,6)
